US07196090B2
(2R,3R)-1-Benzylamino-butane-2,3-diol
A flask was charged with 3.03 g (14.5 mmol) (2S,3R)-N-benzyl-2,3-dihydroxy-butyramide, 60 mL dry THF, and the mixture was cooled to 0° C. under a nitrogen atmosphere. To this solution, 1.65 g (43.5 mmol) lithium aluminum hydride powder was added in small portions. The mixture was stirred at 0° C. for 1 hour, allowed to warm to room temperature, and then heated at reflux overnight. The reaction mixture was then cooled to 0° C. and quenched by the slow addition of 1.65 mL water, 1.65 mL 15% aqueous sodium hydroxide solution, and 4.95 mL water, sequentially. The solids were filtered off, and the solvent was removed under reduced pressure. The crude material was purified by column chromatography (1:1 dichloromethane/ methanol) to give 1.41 g (50%) of the title compound as a white solid. MS (APCI) (m+1)/z 196.1.

reactant | (2S,3R)-N-benzyl-2,3-dihydroxy-butyramide | 14.5 mmol, 3.03 g | C(C1=CC=CC=C1)NC([C@H]([C@@H](C)O)O)=O | C11H15NO3
reactant | lithium aluminum hydride | 43.5 mmol, 1.65 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (2R,3R)-1-Benzylamino-butane-2,3-diol | 1.41 g, 50% | C(C1=CC=CC=C1)NC[C@H]([C@@H](C)O)O | C11H17NO2
